US05006522
5,11-Dihydro-11-[6-(1-piperidinyl)hexyl]-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one
To a suspension of 33.2 g (0.157 mol) of 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one in 875 ml of anhydrous dioxan, 173 ml (approx. 0.45 mol) of a 2.6 molar solution of n-butyl-lithium in n-hexane was added dropwise at ambient temperature and the resulting mixture was then stirred for another hour at the same temperature. It was then heated to 70° C. and at a reaction temperature of not more than 75° C. 83.0 g (0.034 mol) of 1-bromo6-(1-piperidinyl)hexane were added dropwise, then to complete the reaction the mixture was stirred for a further 4 hours at 80° C. After cooling, the solvent was distilled off in a water jet vacuum, the residue was adjusted to pH 7 with dilute aqueous hydrochloric acid and the mixture was then filtered. The filtrate was made alkaline with concentrated aqueous potassium hydroxide solution and extracted exhaustively with dichloromethane. The dichloromethane extracts were dried over sodium sulphate and then evaporated down and the residue remaining was digested with 100 ml of boiling diethyl ether and filtered while hot. The residue remaining after the ether had been removed was purified by chromatography on silica gel (Macherey-Nagel, 0.2-0.5 mm) using dichloromethane/methanol/cyclohexane/ethyl acetate/conc. ammonia 59/7.5/7.5/25/1 (v/v/v/v/v) as eluant. By evaporating the desired fractions and subsequently recrystallising from acetonitrile, a colourless crystalline product with a m.p. of 131° to 132° C. was obtained in a yield of 11.29 g (19% of theory). The hydrochloride melted at 223° C. (ethanol).

reactant | 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.157 mol, 33.2 g | N1=CC=CC2=C1NC1=C(C(N2)=O)C=CC=C1 | C12H9N3O
reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 1-bromo6-(1-piperidinyl)hexane | 0.034 mol, 83.0 g | BrCCCCCCN1CCCCC1 | C11H22BrN
reactant | hydrochloride | Cl | ClH
solvent | dioxan | 875 ml | O1CCOCC1 | C4H8O2
solvent | n-hexane | CCCCCC | C6H14
product | 5,11-Dihydro-11-[6-(1-piperidinyl)hexyl]-6H-pyrido-[2,3-b][1,4]benzodiazepin-6-one | N1(CCCCC1)CCCCCCN1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C23H30N4O
